US05696299
To the distillation residue, i.e., a mixture of (R)-(-)-2-decanol stearic acid ester and unreacted isopropyl stearate, were added 200 g of palmityl alcohol and 3 g of Lipase PL. After the particle size of the enzyme was regulated by ultrasonication in the same manner as described above, the mixture was stirred at 90° C. and 250 rpm under reduced pressure of 2 mmHg for 24 hours to carry out interesterification while recovering the distillate to obtain free (R)-(-)-2-decanol with high purity (yield: 72%; chemical purity: 99.6%; optical purity: 95% ee).

reactant | isopropyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC(C)C | C21H42O2
reactant | palmityl alcohol | 200 g | C(CCCCCCCCCCCCCCC)O | C16H34O
product | (R)-(-)-2-decanol | yield: 72% | C[C@H](CCCCCCCC)O | C10H22O
